US08124629B2
Sodium borohydride (777 mg, 20.5 mmol) was added slowly in portions to a 0° C. solution of 4-(benzenesulfonyl)-benzaldehyde (4.29 g, 18.6 mmol) and tetrahydrofuran (60 mL). The reaction mixture was allowed to warm to room temperature, then stirred at room temperature for 4 hours. The reaction mixture was then cooled over an ice-water bath, diluted with ethyl acetate (80 mL), then carefully quenched with a saturated aqueous solution of ammonium chloride (10 mL). The mixture was washed with water (80 mL), then the organic phase was dried over MgSO4, filtered, and concentrated to afford 2.83 g (61%) of (4-benzenesulfonyl-phenyl)-methanol as a white solid. This product was used in subsequent steps without further purification.

reactant | Sodium borohydride | 20.5 mmol, 777 mg | [BH4-].[Na+]
reactant | 4-(benzenesulfonyl)-benzaldehyde | 18.6 mmol, 4.29 g | C1(=CC=CC=C1)S(=O)(=O)C1=CC=C(C=O)C=C1 | C13H10O3S
reactant | tetrahydrofuran | 60 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | 80 mL | C(C)(=O)OCC | C4H8O2
product | (4-benzenesulfonyl-phenyl)-methanol | 2.83 g, 61% | C1(=CC=CC=C1)S(=O)(=O)C1=CC=C(C=C1)CO | C13H12O3S
